US09233098B2
2. Preparation of 3-(4-nitrobenzyl)-1H-indazole
Into a dry reaction vessel, 10.3 g (44 mmol) (2-iodophenyl)hydrazine, 100 mL toluene, 50 mL triethylamine, 8.41 g (57.2 mmol) p-nitro phenylacetylene, 500 mg (Ph3P)2PdCl2, 250 mg cuprous iodide were respectively added, and reacted at 110° C. under protection of nitrogen for 4.5 h. It was cooled, rotate evaporated to dryness to remove the solvent, chromatographed on a column to obtain a red liquid 2.15 g (8.50 mmol), at a yield of 19.3%.

reactant | (2-iodophenyl)hydrazine | 44 mmol, 10.3 g | IC1=C(C=CC=C1)NN | C6H7IN2
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | p-nitro phenylacetylene | 57.2 mmol, 8.41 g | [N+](=O)([O-])C1=CC=C(C=C1)C#C | C8H5NO2
catalyst | (Ph3P)2PdCl2 | 500 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | triethylamine | 50 mL | C(C)N(CC)CC | C6H15N
product | 3-(4-nitrobenzyl)-1H-indazole | 8.50 mmol, 2.15 g, yield of 19.3% | [N+](=O)([O-])C1=CC=C(CC2=NNC3=CC=CC=C23)C=C1 | C14H11N3O2
